US04492598
15.4 g (0.05 mole) of 2-chlorododecylsulfonyl isocyanate in 100 ml of dichloromethane were initially introduced and 6.2 g (0.05 mole) of 2-amino-4,6-dimethylpyrimidine were added in portions at 0° C. The mixture was initially stirred at 0° C. for 2 hours and then at room temperature for 18 hours and was then worked up in analogy to Example 5. 15.2 g (71% of theory) of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-chlorocyclododecylsulfonamide were obtained (pale yellow solid material, melting point 84° C.).

reactant | 2-chlorododecylsulfonyl isocyanate | 0.05 mole, 15.4 g | ClC(CS(=O)(=O)N=C=O)CCCCCCCCCC | C13H24ClNO3S
reactant | 2-amino-4,6-dimethylpyrimidine | 0.05 mole, 6.2 g | NC1=NC(=CC(=N1)C)C | C6H9N3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-chlorocyclododecylsulfonamide | 15.2 g, 71% | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1C(CCCCCCCCCC1)Cl | C19H31ClN4O3S
